US08039674B2
1-{[6-(4-phenylbutoxy)-2-naphthyl]methyl}piperidine
To a solution in 6-(4-phenylbutoxy)-2-formylnaphthalene (50 mg) in dichloroethane (0.5 mL), piperidine (20 μL) and triacetoxy sodium borohydride (72 mg) were added, followed by stirring at room temperature for 18 hours. The reaction mixture was added with a 1N aqueous sodium hydroxide solution, and then the mixture was extracted with chloroform. After concentrating the organic layer, the obtained residue was purified by silica gel column chromatography (dichloroform:methanol:acetic acid=120:10:1) to give the title compound (60 mg) having the following physical properties.

reactant | piperidine | 20 μL | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 6-(4-phenylbutoxy)-2-formylnaphthalene | 50 mg | C1(=CC=CC=C1)CCCCOC=1C=C2C=CC(=CC2=CC1)C=O | C21H20O2
solvent | dichloroethane | 0.5 mL | ClC(C)Cl | C2H4Cl2
product | 1-{[6-(4-phenylbutoxy)-2-naphthyl]methyl}piperidine | 60 mg | C1(=CC=CC=C1)CCCCOC=1C=C2C=CC(=CC2=CC1)CN1CCCCC1 | C26H31NO
